US05286905
A 100 ml autoclave was charged with 1.96 g (9.8 mmol) of 1-(3,5-dimethylphenoxy)-2-chloropropane, 10 ml of ethanol and 0.2 g of sodium iodide, and then 40 ml of a 28% ammonia aqueous solution was added. The mixture was continuously stirred at 130° C. for 8 hours to complete the reaction. After allowed to cool, the reaction mixture was transferred into a 500 ml beaker with 50 ml of water and 20 ml of diethyl ether. A 20% hydrochloric acid aqueous solution was added to the reaction mixture until it became acidic, and the mixture was washed with 20 ml of diethyl ether three times. While the water layer was cooled, a 20% sodium hydroxide aqueous solution was added to make it alkaline, and the water layer was subjected to extraction with 50 ml of diethyl ether three times, and dried over 10 g of anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure to give 1.48 g of 1-(3,5-dimethylphenoxy)-2-aminopropane (yield 83.7%).

reactant | 1-(3,5-dimethylphenoxy)-2-chloropropane | 9.8 mmol, 1.96 g | CC=1C=C(OCC(C)Cl)C=C(C1)C | C11H15ClO
reactant | sodium iodide | 0.2 g | [I-].[Na+]
reactant | ammonia aqueous | [NH4+].[OH-]
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(3,5-dimethylphenoxy)-2-aminopropane | 1.48 g, yield 83.7% | CC=1C=C(OCC(C)N)C=C(C1)C | C11H17NO
